US06852726B2
A solution of (2,5-dichloro-3-methylsulfonyl-indol-1-yl)-acetonitrile (0.303 g, 1 mmole) in dry chloroform (15 ml) was cooled to 0° C. under a nitrogen atmosphere. To this solution was added anhydrous ethanol (0.35 ml). Dry hydrogen chloride gas was bubbled into the reaction mixture to saturation at 0° C. The flask was stoppered and stirred for 2 h at 0 and left in the freezer overnight. The resulting white solid precipitate was filtered off and dried to afford 0.353 g (91%) of 2-(2,5-dichloro-3-methanesulfonyl-indol-1-yl)-acetimidic acid ethyl ester hydrochloride.

reactant | (2,5-dichloro-3-methylsulfonyl-indol-1-yl)-acetonitrile | 1 mmole, 0.303 g | ClC=1N(C2=CC=C(C=C2C1S(=O)(=O)C)Cl)CC#N | C11H8Cl2N2O2S
reactant | ethanol | 0.35 ml | C(C)O | C2H6O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2,5-dichloro-3-methanesulfonyl-indol-1-yl)-acetimidic acid ethyl ester hydrochloride | 0.353 g, 91% | Cl.C(C)OC(CN1C(=C(C2=CC(=CC=C12)Cl)S(=O)(=O)C)Cl)=N | InChI=1S/C13H14Cl2N2O3S.ClH/c1-3-20-11(16)7-17-10-5-4-8(14)6-9(10)12(13(17)15)21(2,18)19;/h4-6,16H,3,7H2,1-2H3;1H
